US08309546B2
1-[2-(2-Amino-4-methylpyrimidin-5-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-8-yl]piperidine-4-carboxamide
N-Methylpyrrolidone (1 ml) was added to 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine (100 mg, 0.25 mmol) and isonipecotamide (191 mg, 1.5 mmol) and the resulting mixture was stirred at 120° C. for 2.5 hours. The reaction mixture was left standing to cool followed by the addition of water and the insoluble matter was collected by filtration and dried to give the title compound (85 mg, 69%) as a pale yellow solid.

reactant | N-Methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine | 0.25 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C(=NC(=NC1)N)C)CC1CC1 | C18H21ClN8O
reactant | isonipecotamide | 1.5 mmol, 191 mg | N1CCC(C(=O)N)CC1 | C6H12N2O
solvent | water | O | H2O
product | 1-[2-(2-Amino-4-methylpyrimidin-5-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-8-yl]piperidine-4-carboxamide | 85 mg, 69% | NC1=NC=C(C(=N1)C)C1=NC(=C2N=C(N(C2=N1)CC1CC1)N1CCC(CC1)C(=O)N)N1CCOCC1 | C24H32N10O2
